US07470709B2
Step 4: 4-(1-methylpiperidin-4-yl)-2-nitroaniline
N-[4-(1-methyl(4-piperidyl))-2-nitrophenyl]acetamide (1 equivalent) was dissolved in methanol and 30% KOH (2.5 equivalents) was added dropwise with vigorous stirring. The reaction mixture was stirred at room temperature for 3 hours and then concentrated under reduced pressure. The residue was dissolved in CH2Cl2 and washed with water (2×) and brine (1×). The organic solution was dried (Na2SO4) and evaporated to obtain the desired product as an orange brown solid. MH+=236.2.

reactant | N-[4-(1-methyl(4-piperidyl))-2-nitrophenyl]acetamide | 1 equivalent | CN1CCC(CC1)C1=CC(=C(C=C1)NC(C)=O)[N+](=O)[O-] | C14H19N3O3
reactant | KOH | 2.5 equivalents | [OH-].[K+]
solvent | methanol | CO | CH4O
product | 4-(1-methylpiperidin-4-yl)-2-nitroaniline | CN1CCC(CC1)C1=CC(=C(N)C=C1)[N+](=O)[O-] | C12H17N3O2
